US07786115B2
To a solution of N-cyclopropyl-3-(7-methoxy-1,3-dioxo-3,4-dihydroisoquinolin-2(1H)-yl)-4-methylbenzamide (1 g) in Methanol (20 ml) and methylene chloride (45 ml) under an atmosphere of argon was added NaBH4 (114 mg) portionwise and the reaction stirred at room temperature for 17 hours. Concentrated hydrochloric acid (0.2 ml) was added and the reaction stirred for a further 4 hours. The reaction mixture was concentrated and the resultant solid triturated with ethyl acetate and air dried to yield N-cyclopropyl-3-(7-methoxy-1-oxoisoquinolin-2(1H)-yl)-4-methylbenzamide as a white solid (849 mg); NMR Spectrum: (DMSOd6) 0.56 (m, 2H), 0.69 (m, 2H), 2.10 (s, 3H), 2.86 (m, 1H), 3.39 (s, 3H), 6.72 (d, 1H), 7.21 (d, 1H), 7.41 (d, 1H), 7.50 (d, 1H), 7.67 (s, 1H), 7.71 (d, 1H), 7.89 (d, 1H), 8.44 (d, 1H); Mass Spectrum: M+H+ 349.

reactant | N-cyclopropyl-3-(7-methoxy-1,3-dioxo-3,4-dihydroisoquinolin-2(1H)-yl)-4-methylbenzamide | 1 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C(C2=CC(=CC=C2CC1=O)OC)=O)=O | C21H20N2O4
reactant | NaBH4 | 114 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
solvent | Methanol | 20 ml | CO | CH4O
solvent | methylene chloride | 45 ml | C(Cl)Cl | CH2Cl2
product | N-cyclopropyl-3-(7-methoxy-1-oxoisoquinolin-2(1H)-yl)-4-methylbenzamide | 849 mg | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C(C2=CC(=CC=C2C=C1)OC)=O)=O | C21H20N2O3
